US07576078B2
1-[3-(4-Butyl-piperidin-1-yl)propyl]-3,4-dihydro-1H-quinolin-2-one (77-LH-28-1)
A suspension of NaH in mineral oil (55-60%) (712 mg) was added to a solution of 3,4-dihydro-1H-quinolin-2-one (2.0 g, 13.6 mmol) in N,N-dimethylformamide (50 mL) at 0° C. The reaction mixture was stirred at 0° C. for 1 h. then 1-bromo-3-chloropropane (1.34 mL, 13.6 mmol) was added. The slurry was stirred for additional 16 h. at ambient temperature then water (50 mL) was added and the product was extracted with diethyl ether (2×50 mL). The organic layer was dried (Na2SO4) and concentrated in vacuo. The product was purified by flash-chromatography (eluent: dichloromethane) to give 1-[3-chloropropyl]-3,4-dihydro-1H-quinolin-2-one (2.41 g, 10.8 mmol). KI (2.5 g, 15 mmol), K2CO3 (2.1 g, 15 mmol) and 4-butylpiperidine (1.8 mL, 15 mmol) were added to a solution of 1-[3-chloropropyl]-3,4-dihydro-1H-quinolin-2-one (2.41 g, 10.8 mmol) in acetonitrile (50 mL). The reaction mixture was stirred at 60° C. for 16 h. The acetonitrile was evaporated in vacuo, water (50 mL) was added and the product was extracted with ethyl acetate (2×50 mL). The organic layer was dried (Na2SO4), filtered and concentrated in vacuo. Purification by flash-chromatography (eluent: ethyl acetate) gave the title product. Yield: 2.06 g, 58%. Oxalate-salt was prepared from oxalic acid (1.1 eq.) in acetone. HPLC-MS: M+1+=329.5 (UV/MS(%)=100/100). 1H NMR (400 MHz, CD3OD): δ=0.89 (3H, t), 1.12-1.36 (9H, m), 1.67 (2H, broad d), 1.83 (2H, quin.), 1.97 (2H, broad t), 2.41 (2H, t), 2.59 (2H, t), 2.84-2.96 (4H, m), 3.99 (2H, t), 7.02 (1H, broad t), 7.16 (1H, broad d), 7.20 (1H, broad d), 7.25 (1H, broad t). 13C NMR (CD3OD): δ 13.2, 22.8, 24.3, 25.0, 28.9, 31.6, 31.9 (2C), 35.6, 36.2, 40.1, 53.8 (2C), 55.9, 115.2, 123.2, 127.0, 127.4, 127.9, 139.1, 171.5

reactant | K2CO3 | 15 mmol, 2.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-butylpiperidine | 15 mmol, 1.8 mL | C(CCC)C1CCNCC1 | C9H19N
reactant | 1-[3-chloropropyl]-3,4-dihydro-1H-quinolin-2-one | 10.8 mmol, 2.41 g | ClCCCN1C(CCC2=CC=CC=C12)=O | C12H14ClNO
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-[3-(4-Butyl-piperidin-1-yl)propyl]-3,4-dihydro-1H-quinolin-2-one | C(CCC)C1CCN(CC1)CCCN1C(CCC2=CC=CC=C12)=O | C21H32N2O
